US07420055B2
Synthesis of (5-chloro-2-nitro-phenyl)-(6-chloro-pyridin-3-yl)-methanol
A solution of 1.0 g 2-chloro-5-iodopyridine (4.1 mmol, 1.0 eq.) in 10 mL anhyd. THF was stirred at −40° C. to −50° C. After five minutes, 2.2 mL of 2.1 M iPrMgBr/THF (4.6 mmol, 1.1 eq.) were added drop wise over 1 minute and the reaction mixture is maintained at −40 to −50° C. for 30 minutes. 1.3 g 2-nitro-5-chlorobenzaldehyde (7.0 mmol, 1.7 eq.) was then added and the reaction was maintained at −50° C. After 1 hour, the reaction was allowed to warm to −10° C., and quenched with 50 mL saturated brine after a further fifteen minutes. The crude product was extracted with EtOAc, dried on Na2SO4 and concentrated by rotary evaporation to yield desired product. MS: (M+H)/z=298.9

reactant | 2-chloro-5-iodopyridine | 4.1 mmol, 1.0 g, 1.0 eq. | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | iPrMgBr THF | 4.6 mmol, 2.1 M, 2.2 mL, 1.1 eq. | C(C)(C)[Mg]Br.C1CCOC1
reactant | 2-nitro-5-chlorobenzaldehyde | 7.0 mmol, 1.3 g, 1.7 eq. | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)Cl | C7H4ClNO3
solvent | THF | C1CCOC1 | C4H8O
product | (5-chloro-2-nitro-phenyl)-(6-chloro-pyridin-3-yl)-methanol | ClC=1C=CC(=C(C1)C(O)C=1C=NC(=CC1)Cl)[N+](=O)[O-] | C12H8Cl2N2O3
